US08071584B2
3-(1,1-Dioxido-4-thiepanyl)-5-phenyl-1H-indole-7-carboxamide
3-(1,1-Dioxido-4-thiepanyl)-5-phenyl-1H-indole-7-carboxylic acid (0.076 mmol), HOBT (10 mg, 0.074 mmol), EDC (15 mg, 0.078 mmol) were mixed together. A solution of 0.5 M NH3 in dioxane (1.5 mL) was added in, and the reaction was heated in a microwave at 120° C. for 10 minutes, then allowed to sit at room temperature overnight. The solvent was evaporated and the crude product was dissolved in DMSO and purified by Gilson HPLC (0.1% TFA, 10%-90% CH3CN, 10 minutes). The desired fractions were concentrated, giving 4 mg of the title compound.

reactant | 3-(1,1-Dioxido-4-thiepanyl)-5-phenyl-1H-indole-7-carboxylic acid | 0.076 mmol | O=S1(CCC(CCC1)C1=CNC2=C(C=C(C=C12)C1=CC=CC=C1)C(=O)O)=O | C21H21NO4S
reactant | HOBT | 0.074 mmol, 10 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 0.078 mmol, 15 mg
reactant | NH3 | 0.5 M | N | H3N
solvent | dioxane | 1.5 mL | O1CCOCC1 | C4H8O2
product | 3-(1,1-Dioxido-4-thiepanyl)-5-phenyl-1H-indole-7-carboxamide | 4 mg | O=S1(CCC(CCC1)C1=CNC2=C(C=C(C=C12)C1=CC=CC=C1)C(=O)N)=O | C21H22N2O3S
